US07560546B2
Step A: Ethyl 5-amino-4-bromo-3-(morpholin-4-ylsulfonyl)-1H-indole-2-carboxylate
Ethyl 5-amino-3-(morpholin-4-ylsulfonyl)-1H-indole-2-carboxylate (189 mg, 0.53 mmol, 1.0 equiv) was dissolved in 4 mL of dimethylformamide and cooled to 0° C. N-bromosuccinimide (95 mg, 0.54 mmol, 1.0 equiv) was added and the reaction was stirred for 15 minutes. The reaction mixture was partitioned between dichloromethane and aqueous saturated NaHCO3, which was extracted three times with dichloromethane. The combined organic layers were dried (Na2SO4), filtered, and concentrated in vacuo. Purification by flash chromatography on silica gel (0 to 50% ethyl acetate/dichloromethane) provided the titled compound. Proton NMR for the product was consistent with the titled compound. ESI+MS: 432.1 [M+H]+.

reactant | Ethyl 5-amino-3-(morpholin-4-ylsulfonyl)-1H-indole-2-carboxylate | 0.53 mmol, 189 mg, 1.0 equiv | NC=1C=C2C(=C(NC2=CC1)C(=O)OCC)S(=O)(=O)N1CCOCC1 | C15H19N3O5S
reactant | N-bromosuccinimide | 0.54 mmol, 95 mg, 1.0 equiv | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | Ethyl 5-amino-4-bromo-3-(morpholin-4-ylsulfonyl)-1H-indole-2-carboxylate | NC=1C(=C2C(=C(NC2=CC1)C(=O)OCC)S(=O)(=O)N1CCOCC1)Br | C15H18BrN3O5S
